US05378690
8.17 g (0.19 mole) of sodium hydride (as a 55% w/w dispersion in mineral oil) were added, with ice-cooling, to a solution of 25 g (0.16 mole) of dimethyl glutarate and 23.4 g (0.16 mole) of 1-naphthaldehyde dissolved in 200 ml of anhydrous methanol. The mixture was heated under reflux for 30 minutes, after which 190 ml (0.19 mole) of a 1N aqueous solution of sodium hydroxide were added and the mixture was heated under reflux for a further 1 hour. The solvent was then removed by distillation under reduced pressure, and the residue was mixed with water and then washed with diethyl ether. The aqueous layer was acidified and extracted with diethyl ether. The ethereal layer was washed with a saturated aqueous solution of sodium chloride and then dried over anhydrous magnesium sulfate. The solvent was removed by distillation under reduced pressure, and then diisopropyl ether was added to the residue to precipitate crystals, which were collected by filtration to give 18.5 g of 2-(1 -naphthylmethylene)glutaric acid.

reactant | sodium hydride | 0.19 mole, 8.17 g | [H-].[Na+]
reactant | dimethyl glutarate | 0.16 mole, 25 g | C(CCCC(=O)OC)(=O)OC | C7H12O4
reactant | 1-naphthaldehyde | 0.16 mole, 23.4 g | C1(=CC=CC2=CC=CC=C12)C=O | C11H8O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 200 ml | CO | CH4O
product | 2-(1 -naphthylmethylene)glutaric acid | 18.5 g | C1(=CC=CC2=CC=CC=C12)C=C(C(=O)O)CCC(=O)O | C16H14O4
